US07960397B2
6-(E)-(4-hydroxy-3-methylbut-2-en-1-ylamino)-9-(tetrahydropyran-2-yl)purine.
A mixture of 10 mmol (2387 mg) 6-chloro-9-(tetrahydropyran-2-yl)purine (prepared from 10 mmol (1546 mg) of 6-chloropurine), 12 mmol (1754 mg) (E)-(4-hydroxy-3-methylbut-2-en-1-ylamine hemioxalate and 3 mL of triethylamine was refluxed in n-butanol for 3 hrs. After removal of the n-butanol by vacuum evaporation, the resulting material was treated with water and extracted into ethyl acetate. The ethyl acetate phase was evaporated and the residuum subsequently washed with 30 ml of diethylether. The solid residue was filtered off and the crude product crystallized from methanol. Yield 75%, white solid. TLC (CHCl3:methanol (4:1) (v:v): single spot; HPLC: purity >98%. 1H-NMR (400 MHz, DMSO): 1.36m (2H); 1.66s (3H); 1.71m (1H); 1.94m (2H); 2.25m (1H); 3.67m (1H); 3.78d (2H, J=5.7 Hz); 4.00 d)1H, J=10.8 Hz); 4.14bs (2H); 4.71t (1H, J=5.7 Hz); 5.52t (1H, J=6.0 Hz); 5.61dd (1H, Ja=10.8 Hz, Jb=2.0 Hz); 7.83bs (1H); 8.21s (1H); 8.31bs (1H). MS (ES): [M+H]+=304 (100).

reactant | 6-chloro-9-(tetrahydropyran-2-yl)purine | 10 mmol, 2387 mg | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
reactant | 6-chloropurine | 1546 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 4-hydroxy-3-methylbut-2-en-1-ylamine hemioxalate | C(C(=O)O)(=O)O.OCC(=CCN)C.OCC(=CCN)C
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(E)-(4-hydroxy-3-methylbut-2-en-1-ylamino)-9-(tetrahydropyran-2-yl)purine | Yield 75% | OC/C(=C/CNC1=C2N=CN(C2=NC=N1)C1OCCCC1)/C | C15H21N5O2
